US05208247
4-(Tetradecyloxy)phenol
To a room temperature mixture of 40 g of hydroquinone, 62.76 g potassium carbonate, 3.02 g potassium iodide and 700 ml acetone is added, dropwise, 113.5 ml of 1-bromotetradecane. The reaction is heated at reflux temperature for 20 hours, cooled, filtered and concentrated in vacuo. The residue is purified by column chromatography (silica gel:0-10% ethyl acetate/hexane) to give 36.5 g of the desired product as colorless crystals.

reactant | hydroquinone | 40 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | potassium carbonate | 62.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 3.02 g | [I-].[K+]
reactant | 1-bromotetradecane | 113.5 ml | BrCCCCCCCCCCCCCC | C14H29Br
solvent | acetone | 700 ml | CC(=O)C | C3H6O
product | 4-(Tetradecyloxy)phenol | 36.5 g | C(CCCCCCCCCCCCC)OC1=CC=C(C=C1)O | C20H34O2
